US08258141B2
N-{(1S,2R,3S,4R)-4-[2-(3-Amino-[1,2,4]triazol-1-yl)-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-2,3-dihydroxy-cyclopentyl}-2-hydroxy-acetamide
The title compound is prepared analogously to N-{(1S,2R,3S,4R)-4-[2-(4-amino-imidazol-1-yl)-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-2,3-dihydroxy-cyclopentyl}-2-hydroxy-acetamide (Intermediate ZU) from {(1S,2R,3S,4R)-4-[2-chloro-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-2,3-dihydroxy-cyclopentylcarbamoyl}-methyl ester (Intermediate Q1) by substituting 3-nitro-1H-[1,2,4]triazole for 4-nitro-1H-imidazole in step ZU1.

reactant | N-{(1S,2R,3S,4R)-4-[2-(4-amino-imidazol-1-yl)-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-2,3-dihydroxy-cyclopentyl}-2-hydroxy-acetamide | NC=1N=CN(C1)C1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)NC(CO)=O)O)O)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C29H31N9O4
reactant | 4-nitro-1H-imidazole | [N+](=O)([O-])C=1N=CNC1 | C3H3N3O2
product | N-{(1S,2R,3S,4R)-4-[2-(3-Amino-[1,2,4]triazol-1-yl)-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-2,3-dihydroxy-cyclopentyl}-2-hydroxy-acetamide | NC1=NN(C=N1)C1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)NC(CO)=O)O)O)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C28H30N10O4
